data/oMe_Silver.jsonl
{"reaction_id": "NR-236_1-c1ccccc1_2-C=C","level": "medium","name": "Sommelet Reaction","reactants_smiles": ["c1ccccc1C(C=C)Br","C1N2CN3CN1CN(C2)C3"],"products_smiles": ["c1ccccc1C(C=C)=O"],"conditions": "H2O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1N2CN3CN1C[N+](C(c1ccccc1)(C=C))(C2)C3","step_weight": 0,"rationale": "The benzylic carbon is highly electrophilic due to resonance stabilization of the developing cation, and bromide is a good leaving group, enabling nucleophilic substitution by hexamine to form a stable quaternary ammonium salt."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C1N2[CH2]N(C[N+]1=[CH2])CN(C2)C(c1ccccc1)(C=C)","step_weight": 0,"rationale": "The quaternary ammonium salt undergoes [2,3]-sigmatropic rearrangement driven by relief of ring strain and formation of a conjugated iminium system, which is stabilized by adjacent aromatic or electron-donating effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH2]1N2CN(C[N]1C)C[N+](C2)=C(c1ccccc1)(C=C)","step_weight": 0,"rationale": "Water, abundant under the reaction conditions, attacks the electrophilic iminium carbon due to its strong partial positive charge, forming a carbinolamine intermediate stabilized by adjacent nitrogen."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccccc1C(C=C)=O","step_weight": 0,"rationale": "The carbinolamine eliminates the amine, favored by the stability of the departing amine and the formation of a strong C=O bond in the aldehyde product."}],"description": "Hexamine attacks the benzylic bromide to form a stable quaternary ammonium salt, which rearranges via a [2,3]-sigmatropic shift to an iminium ion. Hydrolysis under aqueous conditions converts the iminium to a carbinolamine, which eliminates amine to yield the aldehyde."}
{"reaction_id": "NR-103_1-OCC(F)(F)F_2-CC_3-B1OC(C)(C)C(C)(C)O1_4-C(=O)OC(C)(C)C_5-C(F)(F)F","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(OCC(F)(F)F)c(CC)c(B1OC(C)(C)C(C)(C)O1)c(C(=O)OC(C)(C)C)c1C(F)(F)F","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(OCC(F)(F)F)c(CC)c(B1OC(C)(C)C(C)(C)O1)c(C(=O)OC(C)(C)C)c1C(F)(F)F"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(OCC(F)(F)F)c(CC)c(B1OC(C)(C)C(C)(C)O1)c(C(=O)OC(C)(C)C)c1C(F)(F)F","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(OCC(F)(F)F)c(CC)c(B1OC(C)(C)C(C)(C)O1)c(C(=O)OC(C)(C)C)c1C(F)(F)F","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
